US07759337B2
Synthesis of 3-(1-(2-chlorophenyl)phthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide
A mixture of 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide (0.11 g, 0.327 mmol), 2-chlorophenylboronic acid (51 mg, 329 μmol), 5 mL DME/EtOH (4:1), 0.5 mL 2M K2CO3 and tetrakis(triphenylphosphine)palladium (20mg) was stirred at 90° C. for 1 h. The reaction mixture was cooled to RT. The crude product was purified via flash chromatography (silica gel) with 2% 2 M ammonia in MeOH/DCM to 6% 2 M ammonia in MeOH/DCM to give the crude compound (120 mg) as a yellow solid. The compound was further purified by HPLC by dissolving the crude product in methanol (˜20 mg/mL) and injecting at a rate of about 0.500 mL per injection onto the Gilson preparatory HPLC. Pure product fractions were collected, combined, basefied with sodium bicarbonate (saturated, aqueous), extracted with CH2Cl2, separated, dried over sodium sulfate, and concentrated via rotary evaporation to give pure title compound (28.8 mg) as a white solid.

reactant | 3-(1-chlorophthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 0.327 mmol, 0.11 g | ClC1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C19H16ClN3O
reactant | 2-chlorophenylboronic acid | 329 μmol, 51 mg | ClC1=C(C=CC=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 2M, 0.5 mL | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium | 20mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME EtOH | 5 mL | COCCOC.CCO
product | 3-(1-(2-chlorophenyl)phthalazin-6-yl)-N-cyclopropyl-4-methylbenzamide | 28.8 mg | ClC1=C(C=CC=C1)C1=NN=CC2=CC(=CC=C12)C=1C=C(C(=O)NC2CC2)C=CC1C | C25H20ClN3O
